US05220020
N,N-dimethylbenzamide (0.49 g, 3.0 mmol), triethoxysilane (1.4 mL, 7.5 mmol), titanium (IV) isopropoxide (0.04 mL, 0.15 mmol), and C6H6 (0.5 mL) were added to a flask open to the air and capped with a CaSO4 drying tube. The reaction mixture was heated to 60° C. for 16 hours. The solvent was removed in Vacuo and the contents were added to a mixture of 1 M NaOH (20mL) and THF (10mL). This mixture was stirred for 3 hours at room temperature and then poured into ethyl ether and washed with 1 M NaOH (5×50mL). The ether extracts were dried over MgSO4, filtered and the solvent was removed in vacuo to produce 0.30 g of N,N-dimethyl benzylamine as a yellowish oil (74% yield).

reactant | N,N-dimethylbenzamide | 3.0 mmol, 0.49 g | CN(C(C1=CC=CC=C1)=O)C | C9H11NO
reactant | triethoxysilane | 7.5 mmol, 1.4 mL | C(C)O[SiH](OCC)OCC | C6H16O3Si
catalyst | titanium (IV) isopropoxide | 0.15 mmol, 0.04 mL | CC([O-])C.[Ti+4].CC([O-])C.CC([O-])C.CC([O-])C
solvent | C6H6 | 0.5 mL | C1=CC=CC=C1 | C6H6
product | N,N-dimethyl benzylamine | 0.30 g, 74% yield | CN(C)CC1=CC=CC=C1 | C9H13N
